US05225402
1-(4-Piperidinyl)-3,4-dihydrocarbostyril (500 mg) and triethylamine (0.6 ml) are dissolved in dichloromethane (10 ml) and thereto is added dropwise ethyl chlorocarbonate (0.31 ml) gradually. The mixture is stirred at room temperature for 2 hours and poured into water. The mixture is extracted with chloroform, dried with sodium carbonate and purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=3:1). The resultant is recrystallized from ethanol/n-hexane- to give 1-(1-ethoxycarbonyl-4-piperidinyl)-3,4-dihydrocarbostyril (0.1 g) as white powder, m.p. 82°-83° C.

reactant | 1-(4-Piperidinyl)-3,4-dihydrocarbostyril | 500 mg | N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C14H18N2O
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.31 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(1-ethoxycarbonyl-4-piperidinyl)-3,4-dihydrocarbostyril | 0.1 g | C(C)OC(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C17H22N2O3
